US09163011B2
d) 3-Amino-5-(2-fluoro-ethoxy)-pyrazine-2-carboxylic acid methyl ester
To a mixture of 3-acetylamino-5-(2-fluoro-ethoxy)-pyrazine-2-carboxylic acid methyl ester (330 mg, 0.962 mmol) in dry MeOH (12 ml) was added sodium methoxide (52.0 mg, 0.962 mmol) at 0° C. The resulting suspension was stirred at it for 1 h. Saturated aq. NH4Cl, was added and then mixture was extracted with EtOAc. The combined organic layers were dried with Na2SO4, filtered and evaporated. The residue was purified by chromatography on silica gel (DCM to DCM/EtOAc 9:1) to provide the title compound as white solid (176 mg).

reactant | 3-acetylamino-5-(2-fluoro-ethoxy)-pyrazine-2-carboxylic acid methyl ester | 0.962 mmol, 330 mg | COC(=O)C1=NC=C(N=C1NC(C)=O)OCCF | C10H12FN3O4
reactant | sodium methoxide | 0.962 mmol, 52.0 mg | C[O-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | MeOH | 12 ml | CO | CH4O
product | 3-Amino-5-(2-fluoro-ethoxy)-pyrazine-2-carboxylic acid methyl ester | 176 mg | COC(=O)C1=NC=C(N=C1N)OCCF | C8H10FN3O3
